US06462036B1
A mixture of 4-(1-oxoindan-2-ylidenemethyl)phenol (1.67 g, Chem. Ber. 1901, 34, 413), p-toluenesulphonyl hydrazine (1.95 g), p-toluenesulphonic acid (0.27 g) and ethanol (15 ml) was boiled under reflux for 72 hours. The solvent was removed under reduced pressure and the residue was purified by flash column chromatography on silica using petroleum ether, b.p. 60-80° C./ethyl acetate (1:1) as the mobile phase. Appropriate fractions were collected, combined and evaporated to give a residue which was triturated with petroleum ether, b.p. 60-80° C., to give a solid which was crystallized from ethanol to give 4-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)phenol, m.p. 266-268° C.

reactant | 4-(1-oxoindan-2-ylidenemethyl)phenol | 1.67 g | O=C1C(CC2=CC=CC=C12)=CC1=CC=C(C=C1)O | C16H12O2
reactant | p-toluenesulphonyl hydrazine | 1.95 g | C1(=CC=C(C=C1)S(=O)(=O)NN)C | C7H10N2O2S
reactant | p-toluenesulphonic acid | 0.27 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)phenol | N1N=C(C2=C1C1=CC=CC=C1C2)C2=CC=C(C=C2)O | C16H12N2O
